US07923196B2
The temperature of the 2 L-volume flask containing ethylene glycol monoethyl ether acetate was raised until the inner temperature became 80° C., and 2.30 g (0.01 mol) of polymerization initiator V-601 was further added thereto. After stirring for 5 minutes, the monomer mixed solution prepared above was added dropwise with stirring over 6 hours. After the dropwise addition, the solution was further stirred under heating for 2 hours. Thereafter, the reaction solution was cooled to room temperature and added dropwise in 3 L of hexane to precipitate a polymer. The solid collected by filtration was dissolved in 500 ml of acetone, the resulting solution was again added dropwise in 3 L of hexane, and the solid collected by filtration was dried under reduced pressure to obtain 151 g of a 4-acetoxystyrene/tert-butyl methacrylate/benzyl methacrylate copolymer.

reactant | ethylene glycol monoethyl ether acetate | C(C)(=O)OCCOCC | C6H12O3
reactant | V-601 | N(=NC(C(=O)OC)(C)C)C(C(=O)OC)(C)C | C10H18N2O4
reactant | hexane | 3 L | CCCCCC | C6H14
product | 4-acetoxystyrene tert-butyl methacrylate benzyl methacrylate | 151 g | C(C)(=O)OC1=CC=C(C=C)C=C1.C(C(=C)C)(=O)OC(C)(C)C.C(C(=C)C)(=O)OCC1=CC=CC=C1 | InChI=1S/C11H12O2.C10H10O2.C8H14O2/c1-9(2)11(12)13-8-10-6-4-3-5-7-10;1-3-9-4-6-10(7-5-9)12-8(2)11;1-6(2)7(9)10-8(3,4)5/h3-7H,1,8H2,2H3;3-7H,1H2,2H3;1H2,2-5H3
